US08710043B2
To a 25 mL pear-shaped flask was added solid 1,3-dioxo-1,3-dihydro-isobenzofuran-5-carboxylic acid (200 mg, 1.041 mmol) and allylamine (234 μL, 3.12 mmol, 3 eq) via syringe. Toluene (2 mL) and AcOH (1 mL) were added via syringes and the flask was refluxed for 12 h. The flask was allowed to cool and then subjected to a DCM (75 mL) and HCl (1N, 50 mL) work up. The aqueous layer was extracted with DCM (3×25 mL). The combined organic layers were washed with brine, dried with sodium sulfate, filtered and concentrated. The residue thus obtained was azeotropically dried with toluene (2×, 5 mL) and heptane (2×5 mL). The resulting reside was placed on a high vacuum for 3 to give 2-allyl-1,3-dioxoisoindoline-5-carboxylic acid.

reactant | 1,3-dioxo-1,3-dihydro-isobenzofuran-5-carboxylic acid | 1.041 mmol, 200 mg | O=C1OC(C2=CC(=CC=C12)C(=O)O)=O | C9H4O5
reactant | allylamine | 3.12 mmol, 234 μL, 3 eq | C(C=C)N | C3H7N
reactant | Toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 2-allyl-1,3-dioxoisoindoline-5-carboxylic acid | C(C=C)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C12H9NO4
